US07307094B2
To a solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-iodophenyl)benzoxazole-4-carboxamide (50 mg, 0.11 mmol) in DMF (1 mL) and triethylamine (1 mL), (trimethylsilyl)acetylene (0.045 mL, 0.33 mmol) was added at room temperature followed by copper(I) iodide (4.2 mg, 0.022 mmol) and bis(triphenylphosphine)dichloropalladium(II) (7.7 mg, 0.011 mmol). The resulting mixture was stirred under nitrogen at room temperature for 1 h, and then was quenched with water, extracted with methylene chloride. The combined organic layers were washed with water and brine, dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:10:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-trimethylsilylethynylphenyl)benzoxazole-4-carboxamide (44 mg, 94%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.51 (d, J=7.0 Hz, 1H), 8.20 (dd, J=8.0, 1.0 Hz, 1H), 8.17 (d, J=8.0 Hz, 2H), 7.72 (dd, J=8.0, 1.0 Hz, 1H), 7.64 (d, J=8.0 Hz, 2H), 7.49 (t, J=8.0 Hz, 1H), 4.32-4.29 (m, 1H), 3.52 (ddd, J=14.0, 9.5, 2.0 Hz, 1H), 3.12-2.76 (m, 5H), 2.18-2.02 (m, 2H), 1.80-1.62 (m, 3H), 0.29 (s, 9H); MS (ESI+) m/z 444 (M+H); HPLC>99% (AUC), tR=14.91 min.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-iodophenyl)benzoxazole-4-carboxamide | 0.11 mmol, 50 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)I | C21H20IN3O2
reactant | (trimethylsilyl)acetylene | 0.33 mmol, 0.045 mL | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.022 mmol, 4.2 mg | [Cu]I
catalyst | bis(triphenylphosphine)dichloropalladium(II) | 0.011 mmol, 7.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-trimethylsilylethynylphenyl)benzoxazole-4-carboxamide | 44 mg, 94% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)C#C[Si](C)(C)C | C26H29N3O2Si
